US08003785B2
A mixture of 0.15 g (0.48 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-20) and 0.078 g (0.57 mmole) of 4-amino-benzoic acid in 15 mL of ethanol-water-hydrochloric acid (20:80:1) was refluxed for 18 hours, then cooled and partially concentrated under reduced pressure. The resulting solid was collected by filtration, washed with water and dried to give 0.11 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-20)

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.48 mmole, 0.15 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1 | C13H15ClF2N4O
reactant | 4-amino-benzoic acid | 0.57 mmole, 0.078 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | ethanol water hydrochloric acid | 15 mL | C(C)O.O.Cl
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.11 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C20H21F2N5O3
